US05258356
2-Amino-5-chloromethyl-7-hydroxy-1,8-naphthyridine
32.9 g (0.2 mol) of ethyl 4-chloroacetoacetate is dripped into a suspension of 21.8 g (0.2 mol) of 2,6-diaminopyridine in 100 ml of 85% strength phosphoric acid. The reaction mixture is stirred for 3 hours at 90° C., cooled and poured into ice water, followed by neutralization with concentrated aqueous ammonia solution. The precipitate is suction filtered, stirred into water again and finally boiled with acetonitrile. 22.8 g (54%) of the title compound is obtained; m.p.: >280° C.

reactant | ethyl 4-chloroacetoacetate | 0.2 mol, 32.9 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | 2,6-diaminopyridine | 0.2 mol, 21.8 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | ammonia | N | H3N
product | 2-Amino-5-chloromethyl-7-hydroxy-1,8-naphthyridine | 22.8 g, 54% | NC1=NC2=NC(=CC(=C2C=C1)CCl)O | C9H8ClN3O
